US07687490B2
d) 5-Hydroxymethyl-2-((Z)-2-tritylthioethen-1-yl)thiazole
A solution of 257 mg of 5-ethoxycarbonyl-2-((Z)-2-tritylthioethen-1-yl)thiazole in 10 ml of THF was cooled in ice, and 1.69 ml of a 1.0 M diisobutylaluminum hydride/toluene solution was added dropwise to the cooled solution under an argon atmosphere. The mixture was stirred at room temperature for 2 hr. Water was added to the reaction solution, and the mixture was adjusted to pH 2.5 by the addition of 1 N aqueous hydrochloric acid. The insolubles were removed by filtration through Celite, and the filtrate was extracted twice with ethyl acetate. The organic layers were combined, were washed with brine, were dried over anhydrous magnesium sulfate, were filtered, and were concentrated under the reduced pressure to give 234 mg of the title compound.

reactant | 5-ethoxycarbonyl-2-((Z)-2-tritylthioethen-1-yl)thiazole | 257 mg | C(C)OC(=O)C1=CN=C(S1)\C=C/SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C27H23NO2S2
reactant | diisobutylaluminum hydride toluene | 1.0 M | [H-].C(C(C)C)[Al+]CC(C)C.C1(=CC=CC=C1)C
reactant | Water | O | H2O
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 5-Hydroxymethyl-2-((Z)-2-tritylthioethen-1-yl)thiazole | 234 mg | OCC1=CN=C(S1)\C=C/SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C25H21NOS2
